US04420593
n-Hexane (60 ml), diethylaluminum monochloride (DEAC) (0.05 mol) and diisoamyl ether (0.12 mol) were mixed together at 25° C. for one minute and then reacted at the same temperature for 5 minutes to obtain a reaction product liquid (the molar ratio of diisoamyl ether/DEAC:2.4). TiCl4 (0.4 mol) was introduced into a reactor purged with nitrogen and heated to 35° C. The total amount of the above reaction product liquid was dropwise added thereto over 3 hours and the mixture was kept at the same temperature for 30 minutes, followed by elevating the temperature up to 75° C., reacting it further for one hour, cooling down to room temperature, removing the supernatant liquid, and 4 times repeating a procedure of adding 400 ml of n-hexane and removing the supernatant liquid by decantation to obtain 19 g of a solid product. The total amount of this solid product was suspended in 300 ml of n-hexane, and to the resulting suspension were added diisoamyl ether (16 g) and TiCl4 (35 g) at room temperature (20° C.) over about one minute, followed by reaction at 65° C. for one hour. After completion of the reaction, the liquid was cooled down to room temperature (20° C.), followed by removing the supernatant liquid by decantation, 5 times repeating a procedure of adding 400 ml of n-hexane, stirring for 10 minutes, still standing and removing the supernatant liquid, and drying the resulting liquid under reduced pressure (1 mmHg) at 20° C. for 30 minutes to obtain a solid product (IV) (this solid product obtained in this Example will hereinafter be referred to as solid product (IV-1)). The TiCl3 content in 1 g of this solid product (IV-1) was 85% by weight.

reactant | diethylaluminum monochloride | 0.05 mol | [Cl-].C(C)[Al+]CC
reactant | diisoamyl ether | 0.12 mol | C(CC(C)C)OCCC(C)C | C10H22O
solvent | n-Hexane | 60 ml | CCCCCC | C6H14
product | diisoamyl ether DEAC | C(CC(C)C)OCCC(C)C.[Cl-].C(C)[Al+]CC | InChI=1S/C10H22O.2C2H5.Al.ClH/c1-9(2)5-7-11-8-6-10(3)4;2*1-2;;/h9-10H,5-8H2,1-4H3;2*1H2,2H3;;1H/q;;;+1;/p-1
